US06017919
2-(2-Hydroxyethyl)-4-methoxy-3-pentyloxy-N-[2-(4-benzyloxyphenyl)-ethyl]benzamide (1.33 g, 2.7 mmol, 1.0 eq) was dissolved in DMSO (26 ml), and triethylamine (3.49 ml, 24.3 mmol, 9 eq) and sulfur trioxide-pyridine complex (1.29 g, 8.1 mmol, 3 eq) were successively added under ice-cooling. The mixture was stirred at room temperature for 2 hours. 3N Hydrochloric acid (35 ml) was added to this reaction mixture. The mixture was stirred at room temperature for 30 minutes and e xacted twice with ethyl acetate (40 ml). The organic layers were combined, washed with a saturated aqueous sodium carbonate solution (40 ml) and saturated brine (100 ml), and dried over anhydrous sodium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography on silica gel (ethyl acetate/hexane=2/1) to give 2-[2-(4-benzyloxyphenyl)ethyl]-6-methoxy-5-pentyloxy-2H-isoquinolin-1-one (1.275 g, 100%) as colorless crystals.

reactant | 2-(2-Hydroxyethyl)-4-methoxy-3-pentyloxy-N-[2-(4-benzyloxyphenyl)-ethyl]benzamide | 2.7 mmol, 1.33 g, 1.0 eq | OCCC1=C(C(=O)NCCC2=CC=C(C=C2)OCC2=CC=CC=C2)C=CC(=C1OCCCCC)OC | C30H37NO5
reactant | triethylamine | 24.3 mmol, 3.49 ml, 9 eq | C(C)N(CC)CC | C6H15N
reactant | Hydrochloric acid | 3N, 35 ml | Cl | ClH
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 26 ml | CS(=O)C | C2H6OS
product | 2-[2-(4-benzyloxyphenyl)ethyl]-6-methoxy-5-pentyloxy-2H-isoquinolin-1-one | 1.275 g, 100% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCN1C(C2=CC=C(C(=C2C=C1)OCCCCC)OC)=O | C30H33NO4
